US05972965
To a solution of 1-trifluoroacetamido-2,3-dihydro-4-methoxy-1H-indene (0.44 g) and 4,5-diphenyl-2-bromomethyloxazole (0.55 g) in DMF was added K2CO3 (0.30 g). After being stirred for 12 hours, the solution was extracted with ethyl acetate. The mixture was washed with brine, dried over MgSO4 and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford 1-[N-trifluoroacetyl-N-[(4,5-diphenyloxazol-2-yl)methyl]amino]-2,3-dihydro-4-methoxy-1H-indene (0.30 g). MS (m/z): 493 (M+ +1) IR (Nujol): 1680 cm-1NMR (CDCl3, δ): 2.15-2.45 (1H, m), 2.78-3.20 (2H, m), 2.50-2.75 (1H, m), 3.82 (3H, s), 4.38 (1H, d, J=16.2 Hz), 4.62 (1H, d, J=16.2 Hz), 5.77 (1H, t, J=7.5 Hz), 6.73 (1H, d, J=8.1 Hz), 6.76 (1H, d, J=7.5 Hz), 7.16 (1H, dd, J=7.5, 8.1 Hz), 7.32-7.34 (6H, m), 7.48-7.59 (4H, m)

reactant | 1-trifluoroacetamido-2,3-dihydro-4-methoxy-1H-indene | 0.44 g | FC(C(=O)NC1CCC2=C(C=CC=C12)OC)(F)F | C12H12F3NO2
reactant | 4,5-diphenyl-2-bromomethyloxazole | 0.55 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CBr | C16H12BrNO
reactant | K2CO3 | 0.30 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[N-trifluoroacetyl-N-[(4,5-diphenyloxazol-2-yl)methyl]amino]-2,3-dihydro-4-methoxy-1H-indene | 0.30 g | FC(C(=O)N(CC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)C1CCC2=C(C=CC=C12)OC)(F)F | C28H23F3N2O3
